*****
*SRC=EL1501E;EL1501E;Line Drivers;Elantec;Differential 2MHz
*SYM=EL1501E
*  
* Applications Hint. Pins 4, 5, 6, 7, 14, 15, 16, & 17 must be connected to
* ground (node 0) for proper operation. Use resistors whose value is 1e-6 ohms. 
*  
* Connections: 
* Vin-, Dr+
*     |   Vout, Dr+
*     |      |     V-      
*     |      |     |      Gnd
*     |      |     |      |     Gnd
*     |      |     |      |     |      Gnd
*.    |      |     |      |     |       |        Gnd
*     |      |     |      |     |       |        |   Vin+, Dr+
*     |      |     |      |     |       |        |       |     Vout, Rcvr+
*     |      |     |      |     |       |        |       |         |       Vin-, Rcvr+
*     |      |     |      |     |       |        |       |         |       |    
*     1      2     3      4     5       6        7       8         9       10
*
*    Vin-, Rcvr-    
*        |   Vout, Rcvr-   
*        |         |   Vin+, Dr-
*        |         |      |      Gnd
*        |         |      |      |        Gnd
*        |         |      |      |        |       Gnd
*        |         |      |      |        |       |     Gnd
*        |         |      |      |        |       |     |      V+
*        |         |      |      |        |       |     |      |    Vout, Dr-
*        |         |      |      |        |       |     |      |        |      Vin-,Dr-
*        |         |      |      |        |       |     |      |        |          |
*        11        12     13     14       15      16    17     18       19         20
.subckt EL1501E  1 2 3 4 5 6 7 8 9 10 11 12 13 14 15 16 17 18 19 20    
*
* Driver+ (Amplifier A) 
*
e1a  30 0 8 0 1.0
visa  30 43 0V
h2a   43 44 v1a 1.0
r1a     1 45  25  
l1a    45 44 2.5nH
i1a      8   0 1uA   
i2a      1   0 5uA
h1a   46  0 visa 600
r2a   46 31 1K
d1a   31  0   dclamp
d2a    0  31  dclamp 
e2a   32 0 31 0 0.0016666
l3a   32 33 0.5uH
c1a   33  0 1pF
r5a   33 0 200
g1a    0 34 33 0 1.0
rola  34  0 2Meg 
c2a   34 0 3pF  
q1a  3 34 35 qp 
q2a 18 34 36 qn 
q3a 18 35 37 qn 
q4a  3 36 38 qp 
r7a   37 2  2
r8a   38 2  2
i3a   18 35 3.3mA
i4a   36  3 3.3mA
ivosa 0 42 2mA
v1a   42  0 0V
*
* Driver- (Amplifier B) 
*
e1b  50 0 13 0 1.0
visb  50 63 0V
h2b  63 64 v1b 1.0
r1b    20 65  25  
l1b    65 64 2.5nH
i1b      13   0 1uA   
i2b      20   0 5uA
h1b   66  0 visb 600
r2b   66 51 1K
d1b   51  0   dclamp
d2b    0  51  dclamp 
e2b   52 0 51 0 0.0016666
l3b   52 53 0.5uH
c1b   53  0 1pF
r5b   53 0 200
g1b    0 54 53 0 1.0
rolb  54  0 2Meg 
c2b   54 0 3pF  
q1b  3 54 55 qp 
q2b 18 54 56 qn 
q3b 18 55 57 qn 
q4b  3 56 58 qp 
r7b   57 19  2
r8b   58 19  2
i3b   18 55  3.3mA
i4b   56   3  3.3mA
ivosb  0 62 2mA
v1b  62  0 0V
*
* Receiver+ (Amplifier C) 
*
rpin1 4   5 1e-6
rpin2 5   6 1e-6
rpin3 6   7 1e-6
rpin4 7  14 1e-6
e1c   70 0 7 0 1.0
visc  70 83 0V
h2c   83 84 v1b 1.0
r1c   10 85  25  
l1c   85 84 2.5nH
i1c    7  0 1uA   
i2c   10  0 5uA
h1c   86  0 visc 600
r2c   86 71 1K
d1c   71  0 dclamp
d2c    0  71  dclamp 
e2c   72 0 71 0 0.0016666
l3c   72 73 0.5uH
c1c   73  0 1pF
r5c   73 0 200
g1c    0 74 73 0 1.0
rolc  74  0 2Meg 
c2c   74 0 4.1pF  
q1c   3 74 75 qp 
q2c  18 74 76 qn 
q3c  18 75 77 qn 
q4c   3 76 78 qp 
r7c   77 9  2
r8c   78 9  2
i3c   18 75  3.3mA
i4c   76  3  3.3mA
ivosc  0 82 2mA
v1c   82  0 0V
*
* Receiver- (Amplifier D) 
*
rpin5 17 16 1e-6
rpin6 16 15 1e-6
rpin7 15 14 1e-6
e1d   90 0 14 0 1.0
visd  90 103 0V
h2d   103 104 v1d 1.0
r1d   11 105  25  
l1d   105 104 2.5nH
i1d    7  0 1uA   
i2d   11  0 5uA
h1d   106  0 visd 600
r2d   106 91 1K
d1d   91  0 dclamp
d2d    0 91 dclamp 
e2d   92 0 91 0 0.0016666
l3d   92 93 0.5uH
c1d   93  0 1pF
r5d   93 0 200
g1d    0 94 93 0 1.0
rold  94  0 2Meg 
c2d   94 0 4.1pF  
q1d   3 94 95 qp 
q2d  18 94 96 qn 
q3d  18 95 97 qn 
q4d   3 96 98 qp 
r7d   97 12  2
r8d   98 12  2
i3d   18 95  3.3mA
i4d   96  3  3.3mA
ivosd  0 102 2mA
v1d   102  0 0V
*
* Models
*
.model qn npn(is=5e-15 bf=350 tf=0.1nS)
.model qp pnp(is=5e-15 bf=350 tf=0.1nS)
.model dclamp d(is=1e-30 ibv=0.266 bv=1.9 n=4)
.ends
*****
*SRC=EL2019E;EL2019E;Comparators;Elantec;Latched
*SYM=EL2019E
*EL2019 Marcromodel
*
* Connections:        +input
*                       |  -input
*                       |    |    +V
*                       |    |    |    -V    
*                       |    |    |    |   Cpin __    
*                       |    |    |    |    |   CS 
*                       |    |    |    |    |    |  output
*                       |    |    |    |    |    |    |  
*                       |    |    |    |    |    |    |
.subckt EL2019E         2    3    8    4    6    5    7
*
*Input Stage 
*
i1 8 10 700uA
r1 13 4 1K
r2 14 4 1K
q1  8 3 11  qn
q2  8 2 12  qn
q3 13 11 10 qp 
q4 14 12 10 qp 
i2 11 4 200uA
i3 12 4 200uA          
*
* 2nd Stage & Flip Flop
*
*i4 8 24 700uA  
i4 8 24 1mA
q9  22  6 24 qp
q10 18 17 24 qp
v1 17 0 2.5V
q5 15 14 22 qp 
q6 16 13 22 qp
r3 15 4 1K
r4 16 4 1K
q7 16 15 18 qp
q8 15 16 18 qp
i5 8 40 500uA
q11 41 17 40 qp
q12 42  6 40 qp
q13 43 16 41 qp
q14 44 15 41 qp  
q15 44 43 42 qp
q16 43 44 42 qp
r5 43 4 1K
r6 44 4 1K
*
* Output Stage  
* 
i7 8 35 2mA
As1 35 20 5 0 sw
d2 35 8 ds
i6 26 34 5mA
As2 34 4 5 0 sw
d3 34 26 ds
q19 8 20 21 qn 2
q20 4 19  7 qp 2
r8 21 7 60
r7 20 19 4K
q17 19 44 26 qn 5
q18  0 43 26 qn 5
q22 20 20 30 qn 5
q23 19 19 30 qp 8
d1 0 19 ds
q21 0 17 19 qp
*
* Power Supply Current
*
ips 8 4 4mA
*
* Models 
*
.model qn npn(is=2e-15 bf=400 tf=0.05nS cje=0.3pF cjc=0.2pF ccs=0.2pF)
.model qp pnp(is=0.6e-15 bf=60 tf=0.3nS cje=0.5pF cjc=0.5pF ccs=0.4pF)
.model ds d(is=2e-12 tt=0.05nS eg=0.62V vj=0.58)
.model sw vswitch(von=0.4v voff=2.5v)
.ends
*****
*SRC=EL2157E;EL2157E;Opamps;Elantec;125MHz, Single Supply
*SYM=EL2157E
* EL2157/EL2257 Macromodel 
* Revision A, July 1995
* Applications Hints:
* When not being used, the clamp pin, pin 1, should be connected to Vcc.
*
* connections:        +input
*                       |  -input
*                       |    | +Vsupply
*                       |    |    | -Vsupply
*                       |    |    |    |  output  
*                       |    |    |    |    |   clamp
*                       |    |    |    |    |     |
.subckt EL2157E         3    2    7    4    6     1 
*
* Input stage 
*
i1  7 10 250uA
i2  7 11 250uA
r1 10 11 4K
q1 12  2 10 qp
q2 13  3 11 qpa
r2 12  4 100
r3 13  4 100
*
* Second Stage & Compensation
*
gm 15 4 13 12 4.6m   
r4 15 4 15Meg
c1 15 4 0.36pF
*
* Poles
*
e1 17  4 15 4 1.0
r6 17 25 0.4K
c3 25  4 1pF
r7 25 18 0.5K  
c4 18  4 1pF  
*
* Output Stage & Clamp
* 
i3 20 4 1.0mA
v1 23 4 1.0v   
q3  7 23 20 qn
q4  7 18 19 qn
q5  7 18 21 qn 
q6  4 20 22 qp
q7  7 23 18 qn
d1 19 20 da
d2 18  1 da
r8 21 6 2
r9 22 6 2
r10 18 21 10k
*
* Power Supply Current
*
ips 7 4 3.2mA
*
* Models 
*
.model qn  npn(is=800e-18 bf=150 tf=0.02nS)
.model qpa pnp(is=810e-18 bf=50 tf=0.02nS)
.model qp  pnp(is=800e-18 bf=54 tf=0.02nS)
.model da d(tt=0nS)
.ends
*****
*SRC=EL2175E;EL2175E;Opamps;Elantec;120MHz, Current mode
*SYM=BBOPAMP
* EL2175 Macromodel
* Revision A, August 1995
* AC Characteristics used Rf=1k, Rg=1K, RL = 150
* Connections:        +input
*                       |  -input
*                       |    | +Vsupply
*                       |    |    | -Vsupply
*                       |    |    |    |  output
*                       |    |    |    |    |
.subckt EL2175E         3    2    7    4    6
* Input Stage 
*
e1  10 0 3 0 1.0
vis 10 9 0V
h2   9 12 vxx 1.0
r1   2 11 130  
l1  11  12 25nH
iinp 3  0 2.5uA   
iinm 2  0 2uA
r12  3  0 25Meg
*
* Slew Rate Limiting
*
h1 13  0 vis 600
r2 13 14 1k
d1 14  0  dclamp
d2  0 14  dclamp 
*
* High Frequency Pole  
*
e2 30 0 14 0 0.00166666666
l3 30 17 0.8uH
c5 17 0 1.25pF
r5 17 0 500
*
* Transimpedance Stage
* 
g1 0 18 17 0 1.0
rol 18 0 30Meg
cdp 18 0 2.9pF  
*
* Output Stage 
*
q1 4 18 19 qp 
q2 7 18 20 qn 
q3 7 19 21 qn 
q4 4 20 22 qp 
r7 21 6  4
r8 22 6  4
ios1 7 19 2mA
ios2 20 4 2mA
*
* Supply Current
*
ips 7 4 8.5ma
*
* Error Terms
* 
ivos 0 23 2mA
vxx 23  0 0V
e4  24 0 3 0 1.0
e5  25 0 7 0 1.0
e6  26 0 4 0 -1.0
r9  24 23 1.35K
r10 25 23 1.0K
r11 26 23 1.0K 
*
* Models
*
.model qn npn(is=5e-15 bf=200 tf=0.1nS)
.model qp pnp(is=5e-15 bf=200 tf=0.1nS)
.model dclamp d(is=1e-30 ibv=0.266 bv=2.8 n=4)
.ends
*****
*SRC=EL2176E;EL2176E;Opamps;Elantec;70MHz, Current mode
*SYM=BBOPAMP
* EL2176/EL2276 Macromodel
* Revision A, March 1995
* AC characteristics used Rf = 1K, Rg = 1K, RL = 150
* Connections:        +input
*                       |  -input
*                       |    | +Vsupply
*                       |    |    | -Vsupply
*                       |    |    |    |  output
*                       |    |    |    |    |
.subckt EL2176E         3    2    7    4    6
*
* Input Stage 
*
e1  10 0 3 0 1.0
vis 10 9 0V
h2   9 12 vxx 1.0
r1   2 11 165  
l1  11  12 25nH
iinp 3  0 0.5uA   
iinm 2  0 4uA
r12  3  0 4Meg
*
* Slew Rate Limiting
*
h1 13  0 vis 600
r2 13 14 1K
d1 14  0  dclamp
d2  0 14  dclamp 
*
* High Frequency Pole  
*
e2 30 0 14 0 0.00166666666
l3 30 17 0.5uH
c5 17 0 0.69pF
r5 17 0 300
*
* Transimpedance Stage
* 
g1 0 18 17 0 1.0
rol 18 0 400K 
cdp 18 0 1.9pF  
*
* Output Stage 
*
q1 4 18 19 qp 
q2 7 18 20 qn 
q3 7 19 21 qn 
q4 4 20 22 qp 
r7 21 6  4
r8 22 6  4
ios1 7 19 0.4mA
ios2 20 4 0.4mA
*
* Supply Current
*
ips 7 4 1nA
* Error Terms
* 
ivos 0 23 2mA
vxx 23  0 0V
e4  24 0 3 0 1.0
e5  25 0 7 0 1.0
e6  26 0 4 0 -1.0
r9  24 23 0.316K
r10 25 23 3.2K
r11 26 23 3.2K 
*
* Models
*
.model qn npn(is=5e-15 bf=200 tf=0.01nS)
.model qp pnp(is=5e-15 bf=200 tf=0.01nS)
.model dclamp d(is=1e-30 ibv=0.266 bv=1.3v n=4)
.ends
*****
*SRC=EL2186E;EL2186E;Opamps;Elantec;250MHz, Current mode
*SYM=BBOPAMP
* EL2186 Macromodel 
* Revision A, March 1995
* AC characteristics used Cin- (pin 2) = 0 pF; Rf = Rg = 750 ohms
* 
* Connections:        +input
*                       |  -input
*                       |    | +Vsupply
*                       |    |    | -Vsupply
*                       |    |    |    |  output
*                       |    |    |    |    |
.subckt EL2186E         3    2    7    4    6
*
* Input Stage 
*
e1  10 0 3 0 1.0
vis 10 9 0V
h2   9 12 vxx 1.0
r1   2 11 400  
l1  11  12 25nH
iinp 3  0 1.5uA   
iinm 2  0 3uA
r12  3  0 2Meg
*
* Slew Rate Limiting
*
h1 13  0 vis 600
r2 13 14 1K
d1 14  0  dclamp
d2  0 14  dclamp 
*
* High Frequency Pole  
*
e2 30 0 14 0 0.00166666666
l3 30 17 150nH
c5 17 0 0.8pF
r5 17 0 165
*
* Transimpedance Stage
* 
g1 0 18 17 0 1.0
rol 18 0 450K 
cdp 18 0 0.675pF  
*
* Output Stage 
*
q1 4 18 19 qp 
q2 7 18 20 qn 
q3 7 19 21 qn 
q4 4 20 22 qp 
r7 21 6  4
r8 22 6  4
ios1 7 19 1mA
ios2 20 4 1mA
*
* Supply Current
*
ips 7 4 0.2mA
*
* Error Terms
* 
ivos 0 23 0.2mA
vxx 23  0 0V
e4  24 0 3 0 1.0
e5  25 0 7 0 1.0
e6  26 0 4 0 -1.0
r9  24 23 316
r10 25 23 3.2K
r11 26 23 3.2K 
*
* Models
*
.model qn npn(is=5e-15 bf=200 tf=0.01nS)
.model qp pnp(is=5e-15 bf=200 tf=0.01nS)
.model dclamp d(is=1e-30 ibv=0.266 bv=0.71v n=4)
.ends
*****
*SRC=EL2244E;EL2244E;Opamps;Elantec;60MHz, Low Power
*SYM=BBOPAMP
* EL2244 Macromodel 
* connections:        +input
*                       |  -input
*                       |    | +Vsupply
*                       |    |    | -Vsupply
*                       |    |    |    |  output
*                       |    |    |    |    |
.subckt EL2244E         3    2    7    4    6 
*
* Input stage 
*
ie 7 37 1mA
r6 36 37 800
r7 38 37 800
rc1 4 30 850
rc2 4 39 850
q1 30 3 36 qp
q2 39 2 38 qpa
ediff 33 0 39 30 1.0
rdiff 33 0 1Meg
*
* Compensation Section 
*
ga 0 34 33 0 1m
rh 34 0 2Meg
ch 34 0 1.3pF
rc 34 40 1K
cc 40 0 1pF
*
* Poles
*
ep 41 0 40 0 1
rpa 41 42 200
cpa 42 0 1pF
rpb 42 43 200
cpb 43 0 1pF
*
* Output Stage 
* 
ios1 7 50 1.0mA
ios2 51 4 1.0mA
q3  4 43 50 qp 
q4  7 43 51 qn
q5  7 50 52 qn
q6  4 51 53 qp 
ros1 52 6 25
ros2 6 53 25
*
* Power Supply Current
*
ips 7 4 2.7mA
*
* Models 
*
.model qn  npn(is=800e-18 bf=200 tf=0.2nS)
.model qpa pnp(is=864e-18 bf=100 tf=0.2nS)
.model qp  pnp(is=800e-18 bf=125 tf=0.2nS)
.ends   
*****
*SRC=EL4430E;EL4430E;Opamps;Elantec;Video
*SYM=EL4430E
* EL4430 Macromodel
*  Revision A, May 1995
*  The pins are numbered sequentially as the subcircuit interface nodes.  
*  T1 is a transmission line which provides
*  a good emulation of the more complicated real device.  This model correctly 
*  displays the characteristics of input clipping, frequency response, CMRR
*  both AC and DC, output clipping, output sensitivity to capacitive loads,
*  gain accuracy, slewrate limiting, input bias current and impedance.  The
*  macromodel does not exibit proper results with respect to supply current,
*  supply sensitivities, offsets, output current limit, differential gain or
*  phase, nor temperature.
*  Connections:         IN+
*                         |     VIN-
*                         |       |     V-
*                         |       |       |     V+
*                         |       |       |       |     VFB
*                         |       |       |       |       |     VREF
*                         |       |       |       |       |       |     VOUT
*                         |       |       |       |       |       |       |     GND
*                         |       |       |       |       |       |       |       |
.SUBCKT EL4430E           3       4       2       7       6       5       8       1
*
* EL4430 macromodel *
*
*
i1 7 10 .00103
i2 7 11 .00103
i3 7 12 .00105
i4 7 13 .00105
v1 7 14 3
v2 7 15 3
v3 19 2 3
*
c1 11 1 .03p
c2 12 1 .03p
c3 18 1 2.1p
c4 16 17 0.6p
*
r1 10 11 2000
r2 12 13 2000
r3 10 1 30e6
r4 16 2 1000
r5 17 2 1000
r6 18 1 1.27e6
r7 23 21 20
r8 21 8 100
*
l1 21 8 50n
*
d1 11 14 diode
d2 12 14 diode
d3 18 15 diode
d4 19 18 diode
.model diode d(tt=120n)
*
q1 16 3 10 1 pnp
q2 17 4 11 1 pnp
q3 16 5 12 1 pnp
q4 17 6 13 1 pnp
.model pnp pnp (bf=90 va=44 tr=50n)
*
g1 18 1 17 16 .0005
e1 20 1 1 18 1.0
t1 22 1 20 1 z0=50 td=1.5n
rlt1 22 1 50
e2 23 1 22 1 1.0
*
.ENDS
*****
*SRC=EL7144E;EL7144E;Drivers;Power Mosfet;
*SYM=EL7144E
* EL7144 Spice Model   
*Revision A, February 1996
*Connection 
*                   In+
*                   |      In-
*                   |      |      Gnd
*                   |      |      |      Outn
*                   |      |      |      |     outp
*                   |      |      |      |     |     Vcc
.subckt EL7144E     2      3      5      6     7      8 
V1 12 5 1.6
R1 13 15 1k 
R2 14 15 5k  
R5 11 12 100 
C1 15 5 43.3pF
D1 14 13 dmod
X1 13 11 2 5 comp1
X2 16 12 15 5 comp1
V2 22 5 1.6
R6 23 25 1K
R7 24 25 5K
R8 21 22 100
C2 25 5 43.3pF
D2 24 23 dmod
X3 23 21 3 5 comp1
X4 26 25 22 5 comp1
X5 16 26 17 5 And-gate
Asp 8 7 17 5 spmod
Asn 6 5 17 5 snmod 
g1 11 5 13 5 938u
g2 21 5 23 5 938u
.model dmod d
.model spmod vswitch ron=3 roff=2meg von=1 voff=1.5
.model snmod vswitch ron=4 roff=2meg von=3 voff=2
.ends 
*
.subckt And-gate inp1 inp2 out-A Vss-A
Be1 out-A Vss-A v= v(inp1)*v(inp2) < ? 0 ? 3.2 : v(inp1)*v(inp2) > 3.2 ? 0 : -1*(v(inp1)*v(inp2)) + 3.2
Rout-a out-a vss-a 10meg
rinpa inp1 vss-a 10meg
rinpb inp2 vss-a 10meg
.ends 
*
.subckt comp1 out inp inm vss
Be1 out vss V=(v(inp)-v(inm))*5000 < 0 ? 0 : (v(inp)-v(inm))*5000 > 3.2 ? 3.2 : (v(inp)-v(inm))*5000
Rout out vss 10meg
Rinp inp vss 10meg
Rinm inm vss 10meg
.ends 
*****
*SRC=EL7212E;EL7212E;Drivers;Power Mosfet;
*SYM=EL7212E
*EL7212 Macromodel
*Revision A, January 1996
*Connection  
*                 In
*                 |  Gnd
*                 |  |  Vcc
*                 |  |  |  Out
.subckt EL7212E   2  3  6  7 
V1 12 3 1.6
R1 13 15 1k 
R2 14 15 5k  
R5 11 12 100 
C1 15 3 43.3pF
D1 14 13 dmod
X1 13 11 2 3 comp1
X2 16 12 15 3 comp1
Asp 6 7 16 3 spmod
Asn 7 3 16 3 snmod 
g1 11 0 13 0 938u
.model dmod d
.model spmod vswitch ron=3 roff=2meg von=1 voff=1.5
.model snmod vswitch ron=4 roff=2meg von=3 voff=2
.ends 
*
.subckt comp1 out inp inm vss
Be1 out vss V=(v(inp)-v(inm))*5000 < 0 ? 0 : (v(inp)-v(inm))*5000 > 3.2 ? 3.2 : (v(inp)-v(inm))*5000
*e1 out vss table {(v(inp)-v(inm))*5000} = (0,0) (3.2,3.2)
Rout out vss 10meg
Rinp inp vss 10meg
Rinm inm vss 10meg
.ends 
*****
*SRC=EL7242E;EL7242E;Drivers;Power Mosfet;
*SYM=EL7242E
* EL7242 Spice Model   
*Revision A, January 1996
*Connection        In+
*                  |  In-
*                  |  |  Gnd
*                  |  |  |  Out
*                  |  |  |  |  Vcc
.subckt EL7242E    1  2  5  7  8 
V1 12 5 1.6
R1 13 15 1k 
R2 14 15 5k  
R5 11 12 100 
C1 15 5 43.3pF
D1 14 13 dmod
X1 13 11 1 5 comp1
X2 16 12 15 5 comp1
V2 22 5 1.6
R6 23 25 1K
R7 24 25 5K
R8 21 22 100
C2 25 5 43.3pF
D2 24 23 dmod
X3 23 21 2 5 comp1
X4 26 25 22 5 comp1
X5 16 26 17 5 And-gate
Asp 8 7 17 5 spmod
Asn 7 5 17 5 snmod 
g1 11 5 13 5 938u
g2 21 5 23 5 938u
.model dmod d
.model spmod vswitch ron=3 roff=2meg von=1 voff=1.5
.model snmod vswitch ron=4 roff=2meg von=3 voff=2
.ends 
*
.subckt And-gate inp1 inp2 out-A Vss-A
Be1 out-A Vss-A v= v(inp1)*v(inp2) < ? 0 ? 3.2 : v(inp1)*v(inp2) > 3.2 ? 0 : -1*(v(inp1)*v(inp2)) + 3.2
Rout-a out-a vss-a 10meg
rinpa inp1 vss-a 10meg
rinpb inp2 vss-a 10meg
.ends 
*
.subckt comp1 out inp inm vss
Be1 out vss V=(v(inp)-v(inm))*5000 < 0 ? 0 : (v(inp)-v(inm))*5000 > 3.2 ? 3.2 : (v(inp)-v(inm))*5000
Rout out vss 10meg
Rinp inp vss 10meg
Rinm inm vss 10meg
.ends 
***********
*SRC=EL7243E;EL7243E;Drivers;CCD;High Speed
*SYM=EL7243E
*EL7243 Macromodel
* Revision A, January 1996
*Connection 
*                 Gnd
*                 |  Inp+
*                 |  |  Inp-
*                 |  |  |  out
*                 |  |  |  |  Vcc
.subckt EL7243E   1  2  3  8  10 
V1 12 1 1.6
R1 13 15 1k 
R2 14 15 5k  
R5 11 12 100 
C1 15 1 43.3pF
D1 14 13 dmod
X1 13 11 2 1 comp1
X2 16 12 15 1 comp1
V2 22 1 1.6
R6 23 25 1K
R7 24 25 5K
R8 21 22 100
C2 25 1 43.3pF
D2 24 23 dmod
X3 23 21 3 1 comp1
X4 26 25 22 1 comp1
X5 16 26 17 1 And-gate
Asp 10 8 17 1 spmod
Asn 8 1 17 1 snmod 
g1 11 1 13 1 938u
g2 21 1 23 1 938u
.model dmod d
.model spmod vswitch ron=3 roff=2meg von=1 voff=1.5
.model snmod vswitch ron=4 roff=2meg von=3 voff=2
.ends 
* AND Gate Subcircuit*
.subckt And-gate inp1 inp2 out-A Vss-A
Be1 out-A Vss-A v= v(inp1)*v(inp2) < 0 ? 3.2 : v(inp1)*v(inp2) > 3.2 ? 0 : -1*(v(inp1)*v(inp2)) + 3.2
Rout-a out-a vss-a 10meg
rinpa inp1 vss-a 10meg
rinpb inp2 vss-a 10meg
.ends 
*
* Comparator Subcircuit *
.subckt comp1 out inp inm vss
Be2 out vss V=(v(inp)-v(inm))*5000 < 0 ? 0 : (v(inp)-v(inm))*5000 > 3.2 ? 3.2 : (v(inp)-v(inm))*5000
Rout out vss 10meg
Rinp inp vss 10meg
Rinm inm vss 10meg
.ends 
*****
*SRC=EL7661E;EL7661E;Drivers;Bridge;Full
*SYM=EL7661E
* EL7661 spice macro model *
*               a-input
*               |   b-input
*               |   |   a lo-side output
*               |   |   |   b lo-side output
*               |   |   |   |   a hi-side output
*               |   |   |   |   |   b hi-side output
*               |   |   |   |   |   |   a hi-side neg supply
*               |   |   |   |   |   |   |   b hi-side neg supply
*               |   |   |   |   |   |   |   |   lo-side neg supply 
*               |   |   |   |   |   |   |   |   |   a hi-side pos supply
*               |   |   |   |   |   |   |   |   |   |    b hi-side pos supply
*               |   |   |   |   |   |   |   |   |   |    |    lo-side pos supply
*               |   |   |   |   |   |   |   |   |   |    |    |
.subckt EL7661E ina inb alo blo ahi bhi lxa lxb vss vhia vhib vdd
*  top level subcircuit calls *
xdela ina outa vss delay {rset=50e3}
xdelb inb outb vss delay {rset=50e3}
xalo alo outa vdd vss vss outstg
xblo blo outb vdd vss vss outstg
xahi ahi outa vhia lxa vss outstg
xbhi bhi outb vhib lxb vss outstg
.ends 
*  put in value of rset resistor here *
*  comparator subcircuit * 
*
.subckt comp10 out inp inm vss
Be1 out vss V=(v(inp)-v(inm))*5000 < 0 ? 0 : (v(inp)-v(inm))*5000 > 15 ? 15 : (v(inp)-v(inm))*5000
*e1 out vss table {(v(inp)-v(inm))*5000} (0,0,15,15)
rout out vss 10meg
rinp inp vss 10meg
rinm inm vss 10meg
.ends 
*  input, delay, and level shift subcircuit *
*
.subckt delay vin compout vss  {rset=50e3}
vinref vinref vss 1.8    
x1 n1 vin vinref vss comp10
rslow n1 n5 {rset}
rnom n5 n2 25k
cdelay n2 vss 7.5p
ddelay n4 n1 modd
rfast n4 n2 110k
rdiv1 vddint n3 1k
rdiv2 n3 vss 1k
x2 compout n3 n2 vss comp10
vddint vddint vss 15
.model modd d is=1e-7
.ends 
*  5 ohm output stage subcircuit *
.subckt outstg out gate vhi lx vss
Asp vhi out gate vss spmod
Asn out lx gate vss snmod
.model spmod vswitch ron=5 roff=2meg von=2.5 voff=4.5
.model snmod vswitch ron=5 roff=2meg von=7.5 voff=5.5
.ends 
*****

